US08309546B2
(2S)-4-(4-[2-(2-Aminopyrimidin-5-yl)-9-isobutyl-6-[(3S)-3-methylmorpholin-4-yl]-9H-purin-8-yl]piperazin-1-yl)-4-oxobutan-2-ol
A methylene chloride (3 ml) solution of 5-{9-isobutyl-6-[(3S)-3-methylmorpholin-4-yl]-8-piperazin-1-yl-9H-purin-2-yl}pyrimidin-2-amine (94 mg, 0.21 mmol), (3S)-3-hydroxybutanoic acid (24 mg, 0.23 mmol), 1-hydroxybenzotriazole (28 mg, 0.21 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (60 mg, 0.31 mmol), and triethylamine (44 μl, 0.31 mmol) was stirred at room temperature for 21 hour. Chloroform and saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture and the resulting mixture was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and, after filtration, the filtrate was concentrated under reduced pressure. The residue was purified by flash silica gel column chromatography (methylene chloride:methanol=95:5) to give an amorphous substance. Ethyl acetate-hexane was added to the resulting amorphous substance, the resulting mixture was solidified, and the solid was collected by filtration and dried to give the title compound (91 mg, 81%) as a powder.

reactant | 5-{9-isobutyl-6-[(3S)-3-methylmorpholin-4-yl]-8-piperazin-1-yl-9H-purin-2-yl}pyrimidin-2-amine | 0.21 mmol, 94 mg | C(C(C)C)N1C2=NC(=NC(=C2N=C1N1CCNCC1)N1[C@H](COCC1)C)C=1C=NC(=NC1)N | C22H32N10O
reactant | (3S)-3-hydroxybutanoic acid | 0.23 mmol, 24 mg | O[C@H](CC(=O)O)C | C4H8O3
reactant | 1-hydroxybenzotriazole | 0.21 mmol, 28 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.31 mmol, 60 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.31 mmol, 44 μl | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | Ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | (2S)-4-(4-[2-(2-Aminopyrimidin-5-yl)-9-isobutyl-6-[(3S)-3-methylmorpholin-4-yl]-9H-purin-8-yl]piperazin-1-yl)-4-oxobutan-2-ol | 91 mg, 81% | NC1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)CC(C)C)N1CCN(CC1)C(C[C@H](C)O)=O)N1[C@H](COCC1)C | C26H38N10O3
